US05661167
III. Synthesis of 4-[[4-[(methoxymethylamino)carbonyl]-3-thiazolidinyl]carbonyl]-3-thiazolidinecarboxylic acid, 1,1-dimethylethyl ester (Scheme I, compound VIII)
To a stirred solution of 3,4-thiazolidinedicarboxylic acid, 3-(1,1-dimethylethyl) ester (compound from Example IIIA; 0.81 g, 3.49 mmol) and DMAP (0.43 g, 3.49 mmol) in methylene chloride (20 ml) under argon was added NMM (0.38 ml, 3.49 mmol) followed by N-methoxy-N-methyl-4-thiazolidinecarboxamide, monohydrochloride (compound from Example IIIC; 0.76 g, 3.49 mmol) in methylene chloride (10 ml) and water soluble carbodiimide (0.67 g; 3.49 mmol). After the reaction was complete the reaction was concentrated to about 10 ml and loaded onto a 5×13 cm silica gel column and subjected to flash chromatography, eluting with acetone/ethyl acetate (8:92). Product containing fractions were combined (Rf=0.66) and concentrated to give a white foam (0.35 g). Mass spectral analysis of the product gave MH+=392.1324 [expected mass for C15H60N3O5S2 (MH+)=392.1314].

reactant | 3,4-thiazolidinedicarboxylic acid, 3-(1,1-dimethylethyl) ester | 3.49 mmol, 0.81 g | S1CN(C(C1)C(=O)[O-])C(=O)OC(C)(C)C
reactant | NMM | 3.49 mmol, 0.38 ml | CN1CCOCC1 | C5H11NO
reactant | N-methoxy-N-methyl-4-thiazolidinecarboxamide, monohydrochloride | 3.49 mmol, 0.76 g | Cl.CON(C(=O)C1NCSC1)C
reactant | water soluble carbodiimide | 3.49 mmol, 0.67 g | CCN=C=NCCCN(C)C.Cl
catalyst | DMAP | 3.49 mmol, 0.43 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-[[4-[(methoxymethylamino)carbonyl]-3-thiazolidinyl]carbonyl]-3-thiazolidinecarboxylic acid, 1,1-dimethylethyl ester | 0.35 g | COCNC(=O)C1N(CSC1)C(=O)C1N(CSC1)C(=O)OC(C)(C)C | C15H25N3O5S2
